US08541411B2
Preparation of 2,4-dimethyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole
A mixture of 4-bromo-2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole, prepared as described in Example 62 (200 mg, 0.427 mmol), trimethylboroxine (0.239 mL, 1.708 mmol), Pd(Ph3P)4 (49.4 mg, 0.043 mmol) and potassium carbonate (118 mg, 0.854 mmol) in 1,4-Dioxane (2.5 mL)/Water (0.25 mL) was irradiated at 120° C. in a microwave synthesizer for 40 min, then cooled and poured into water. The mixture was extracted with ethyl acetate. The extracts were washed with brine, dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by RP-HPLC (25-45% AcCN in water plus 0.1% TFA) to give the desired compound (77 mg, 0.181 mmol, 42.5% yield) as a white solid (contains 3-5% of the 4-H compound). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.58 (d, J=8.08 Hz, 1H), 7.12 (t, J=7.83 Hz, 1H), 6.80 (d, J=1.01 Hz, 1H), 6.51 (d, J=7.83 Hz, 1H), 6.40 (d, J=1.77 Hz, 1H), 5.26 (s, 2H), 3.78-3.91 (m, 4H), 3.01-3.15 (m, 4H), 2.67 (s, 3H), 2.56 (s, 3H), 2.50 (s, 3H). MS (ES+) m/e 404.1 [M+H]+. (NOTE: The reaction was repeated using PdCl2(dppf) as catalyst. Less (to negligible) reduction was observed).

reactant | 4-bromo-2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole | BrC1=CC(=CC=2N(C(=NC21)C)CC2=C(C(=CC=C2)C(F)(F)F)C)N2CCOCC2 | C21H21BrF3N3O
reactant | trimethylboroxine | 1.708 mmol, 0.239 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.854 mmol, 118 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 0.25 mL | O | H2O
solvent | 1,4-Dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.043 mmol, 49.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-dimethyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole | 0.181 mmol, 77 mg, 42.5% yield | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C)N2CCOCC2 | C22H24F3N3O
